output.csv
SMILES Labelled
"CCC[NH:10]CC.[H][C:20]([H])(CC)[O:21]S(=O)(=O)C(F)(F)F>>O=S(=O)(C(F)(F)F)[O-:21].[H][C:20]([H])(CC)[NH+:10](CC)CCC 10=20;20,21=21"
"CC[NH2:10].[H][C:20]([H])(C(=O)CC)[O:21]S(=O)(=O)C(F)(F)F>>O=S(=O)(C(F)(F)F)[O-:21].[H][C:20]([H])(C(=O)CC)[NH2+:10]CC 10=20;20,21=21"
"C[NH:10]C.[H][C:20]([H])(C=CCC)[O:21]S(C)(=O)=O>>CS(=O)(=O)[O-:21].[H][C:20]([H])(C=CCC)[NH+:10](C)C 10=20;20,21=21"
"CCC[NH:10]CCC.[H][C:20]([H])(C(=O)c1ccccc1)[Cl:21]>>[Cl-:21].[H][C:20]([H])(C(=O)c1ccccc1)[NH+:10](CCC)CCC 10=20;20,21=21"
"CC(C)(C)[NH2:10].[H][C:20]([H])(C(C)=O)[O:21]S(=O)(=O)C(F)(F)F>>O=S(=O)(C(F)(F)F)[O-:21].[H][C:20]([H])(C(C)=O)[NH2+:10]C(C)(C)C 10=20;20,21=21"
"CC(C)[NH2:10].[H][C:20]([H])(c1ccccc1)[O:21]S(=O)(=O)C(F)(F)F>>O=S(=O)(C(F)(F)F)[O-:21].[H][C:20]([H])(c1ccccc1)[NH2+:10]C(C)C 10=20;20,21=21"
"CCC[NH:10]CCC.[H][C:20]([H])(C=CCC)[O:21]S(C)(=O)=O>>CS(=O)(=O)[O-:21].[H][C:20]([H])(C=CCC)[NH+:10](CCC)CCC 10=20;20,21=21"
"C1CCC([NH2:10])CC1.[H][C:20]([H])(C(=O)c1ccccc1)[O:21]S(C)(=O)=O>>CS(=O)(=O)[O-:21].[H][C:20]([H])(C(=O)c1ccccc1)[NH2+:10]C1CCCCC1 10=20;20,21=21"
"CC[NH2:10].[H][C:20]([H])(C#N)[O:21]S(=O)(=O)C(F)(F)F>>O=S(=O)(C(F)(F)F)[O-:21].[H][C:20]([H])(C#N)[NH2+:10]CC 10=20;20,21=21"
"CC(C)(C)[NH2:10].[H][C:20]([H])(CC)[O:21]S(=O)(=O)C(F)(F)F>>O=S(=O)(C(F)(F)F)[O-:21].[H][C:20]([H])(CC)[NH2+:10]C(C)(C)C 10=20;20,21=21"
"CC(C)(C)[NH2:10].[H][C:20]([H])(C(C)=O)[Cl:21]>>[Cl-:21].[H][C:20]([H])(C(C)=O)[NH2+:10]C(C)(C)C 10=20;20,21=21"
"C1C[NH:10]CCN1.[H][C:20]([H])(C=CCC)[O:21]S(C)(=O)=O>>CS(=O)(=O)[O-:21].[H][C:20]([H])(C=CCC)[NH+:10]1CCNCC1 10=20;20,21=21"
"C1CC[NH:10]CC1.[H][C:20]([H])(c1ccccc1)[O:21]S(C)(=O)=O>>CS(=O)(=O)[O-:21].[H][C:20]([H])(c1ccccc1)[NH+:10]1CCCCC1 10=20;20,21=21"
"C1CCC([NH2:10])CC1.[H][C:20]([H])(C#N)[O:21]S(C)(=O)=O>>CS(=O)(=O)[O-:21].[H][C:20]([H])(C#N)[NH2+:10]C1CCCCC1 10=20;20,21=21"
"CC[NH:10]C.[H][C:20]([H])(c1ccccc1)[O:21]S(C)(=O)=O>>CS(=O)(=O)[O-:21].[H][C:20]([H])(c1ccccc1)[NH+:10](C)CC 10=20;20,21=21"
"CC[NH2:10].[H][C:20]([H])(C(=O)c1ccccc1)[O:21]S(=O)(=O)c1ccc(C)cc1>>Cc1ccc(S(=O)(=O)[O-:21])cc1.[H][C:20]([H])(C(=O)c1ccccc1)[NH2+:10]CC 10=20;20,21=21"
"C1CCC([NH2:10])CC1.[H][C:20]([H])(c1ccccc1)[O:21]S(C)(=O)=O>>CS(=O)(=O)[O-:21].[H][C:20]([H])(c1ccccc1)[NH2+:10]C1CCCCC1 10=20;20,21=21"
"CC[NH2:10].[H][C:20]([H])(C=CC)[O:21]S(=O)(=O)C(F)(F)F>>O=S(=O)(C(F)(F)F)[O-:21].[H][C:20]([H])(C=CC)[NH2+:10]CC 10=20;20,21=21"
"C1CC[NH:10]CC1.[H][C:20]([H])(C(=O)CC)[O:21]S(=O)(=O)C(F)(F)F>>O=S(=O)(C(F)(F)F)[O-:21].[H][C:20]([H])(C(=O)CC)[NH+:10]1CCCCC1 10=20;20,21=21"
"C1CCC[NH:10]CC1.[H][C:20]([H])(C(=O)CC)[O:21]S(=O)(=O)C(F)(F)F>>O=S(=O)(C(F)(F)F)[O-:21].[H][C:20]([H])(C(=O)CC)[NH+:10]1CCCCCC1 10=20;20,21=21"
"CC(C)(C)[NH2:10].[H][C:20]([H])(C=CCC)[O:21]S(=O)(=O)C(F)(F)F>>O=S(=O)(C(F)(F)F)[O-:21].[H][C:20]([H])(C=CCC)[NH2+:10]C(C)(C)C 10=20;20,21=21"
"C1C[NH:10]CCO1.[H][C:20]([H])(C(C)=O)[Cl:21]>>[Cl-:21].[H][C:20]([H])(C(C)=O)[NH+:10]1CCOCC1 10=20;20,21=21"
"CCC[NH:10]CC.[H][C:20]([H])(c1ccccc1)[O:21]S(C)(=O)=O>>CS(=O)(=O)[O-:21].[H][C:20]([H])(c1ccccc1)[NH+:10](CC)CCC 10=20;20,21=21"
"C[NH:10]C.[H][C:20]([H])(c1ccccc1)[O:21]S(=O)(=O)c1ccc(C)cc1>>Cc1ccc(S(=O)(=O)[O-:21])cc1.[H][C:20]([H])(c1ccccc1)[NH+:10](C)C 10=20;20,21=21"
"C[NH:10]C.[H][C:20]([H])(C(=O)c1ccccc1)[Cl:21]>>[Cl-:21].[H][C:20]([H])(C(=O)c1ccccc1)[NH+:10](C)C 10=20;20,21=21"
"CC[NH:10]C.[H][C:20]([H])(C#N)[O:21]S(=O)(=O)c1ccc(C)cc1>>Cc1ccc(S(=O)(=O)[O-:21])cc1.[H][C:20]([H])(C#N)[NH+:10](C)CC 10=20;20,21=21"
"C1C[NH:10]CCN1.[H][C:20]([H])(C(=O)CC)[O:21]S(=O)(=O)c1ccc(C)cc1>>Cc1ccc(S(=O)(=O)[O-:21])cc1.[H][C:20]([H])(C(=O)CC)[NH+:10]1CCNCC1 10=20;20,21=21"
"CC(C)[NH2:10].[H][C:20]([H])(C=CCC)[O:21]S(=O)(=O)C(F)(F)F>>O=S(=O)(C(F)(F)F)[O-:21].[H][C:20]([H])(C=CCC)[NH2+:10]C(C)C 10=20;20,21=21"
"C1C[NH:10]CCN1.[H][C:20]([H])(C=CC)[Cl:21]>>[Cl-:21].[H][C:20]([H])(C=CC)[NH+:10]1CCNCC1 10=20;20,21=21"
"CCC[NH:10]CC.[H][C:20]([H])(C=CCC)[O:21]S(C)(=O)=O>>CS(=O)(=O)[O-:21].[H][C:20]([H])(C=CCC)[NH+:10](CC)CCC 10=20;20,21=21"
"C1CCC[NH:10]CC1.[H][C:20]([H])(C(C)=O)[O:21]S(C)(=O)=O>>CS(=O)(=O)[O-:21].[H][C:20]([H])(C(C)=O)[NH+:10]1CCCCCC1 10=20;20,21=21"
"C1C[NH:10]CCN1.[H][C:20]([H])(C(C)=O)[O:21]S(=O)(=O)C(F)(F)F>>O=S(=O)(C(F)(F)F)[O-:21].[H][C:20]([H])(C(C)=O)[NH+:10]1CCNCC1 10=20;20,21=21"
"CCC[NH2:10].[H][C:20]([H])(C(C)=O)[O:21]S(=O)(=O)C(F)(F)F>>O=S(=O)(C(F)(F)F)[O-:21].[H][C:20]([H])(C(C)=O)[NH2+:10]CCC 10=20;20,21=21"
"C1CC[NH:10]C1.[H][C:20]([H])(C(=O)c1ccccc1)[O:21]S(=O)(=O)c1ccc(C)cc1>>Cc1ccc(S(=O)(=O)[O-:21])cc1.[H][C:20]([H])(C(=O)c1ccccc1)[NH+:10]1CCCC1 10=20;20,21=21"
"CC(C)(C)[NH2:10].[H][C:20]([H])(C(=O)CC)[O:21]S(=O)(=O)c1ccc(C)cc1>>Cc1ccc(S(=O)(=O)[O-:21])cc1.[H][C:20]([H])(C(=O)CC)[NH2+:10]C(C)(C)C 10=20;20,21=21"
"C1C[NH:10]C1.[H][C:20]([H])(C(=O)CC)[O:21]S(=O)(=O)c1ccc(C)cc1>>Cc1ccc(S(=O)(=O)[O-:21])cc1.[H][C:20]([H])(C(=O)CC)[NH+:10]1CCC1 10=20;20,21=21"
"CC(C)[NH2:10].[H][C:20]([H])(C#N)[O:21]S(=O)(=O)C(F)(F)F>>O=S(=O)(C(F)(F)F)[O-:21].[H][C:20]([H])(C#N)[NH2+:10]C(C)C 10=20;20,21=21"
